US05250688
2-Amino-9-(4-hydroxy-3-hydroxymethylbut-1 -yl)purine
To a suspension of 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-amino-6-chloropurine (4.86 g 13.7 mmol) in methanol (140 ml) containing ammonium formate (400 mM) was added 10% palladium-on-charcoal (0.4 g) and the mixture was heated under reflux for 40 minutes. After cooling the solution was filtered and the solvent removed. The residue was taken up in water and extracted with chloroform (100ml and 50ml). The organic layers were combined, dried (magnesium sulphate) and the solvent removed. The residue was dissolved in methanol saturated with ammonia at 0° C. (150 ml) and the solution was stirred for 20 hours. The solvent was removed and the residue suspended in chloroform (20 ml) and filtered. The solid was recrystallised from isopropanol-water and a second recrystallisation was carried out from the mother liquors from ethanol (total 2.71 g, 83%).

reactant | 9-(4-acetoxy-3-acetoxymethylbut-1-yl)-2-amino-6-chloropurine | 13.7 mmol, 4.86 g | C(C)(=O)OCC(CCN1C2=NC(=NC(=C2N=C1)Cl)N)COC(C)=O | C14H18ClN5O4
reactant | ammonium formate | 400 mM | C(=O)[O-].[NH4+]
solvent | methanol | 140 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.4 g | [Pd] | Pd
product | 2-Amino-9-(4-hydroxy-3-hydroxymethylbut-1 -yl)purine | NC1=NC=C2N=CN(C2=N1)CCC(CO)CO | C10H15N5O2
